US05496930
1.0 g (4 mmol) of 6-O-benzoylglucal is dissolved in 2-5 ml of dimethoxyethane and 10-15 ml of vinyl chloroacetate and stirred with 1 g of lipase P (Amano) for 1-2 h. Filtering off the enzyme and chromatography on silica gel (ether/hexane 1:1) yield 6-O-benzoyl-3-O-chloroacetylglucal in 82-87% yield.

reactant | 6-O-benzoylglucal | 4 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)OC[C@@H]1[C@H]([C@@H](C=CO1)O)O | C13H14O5
reactant | vinyl chloroacetate | 10-15 ml | ClCC(=O)OC=C | C4H5ClO2
solvent | dimethoxyethane | 2-5 ml | C(OC)COC | C4H10O2
product | 6-O-benzoyl-3-O-chloroacetylglucal | 82-87% yield | C(C1=CC=CC=C1)(=O)OC[C@@H]1[C@H]([C@@H](C=CO1)OC(CCl)=O)O | C15H15ClO6
